US08877780B2
A stirred mixture of 5-ethoxy-pyridine-2-carboxylic acid (0.50 g, 3.00 mmol) and CDI (0.54 g, 3.30 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 1 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (1.15 g, 3.00 mmol) was added and the mixture was heated at 40° C. for 1.5 h. The mixture was cooled to rt and water (40 mL) was added. After 2 h, the solids were isolated by filtration. The product was dissolved in MeOH (200 mL) and treated with decolorizing carbon. The carbon was removed by filtration and the filtrate was concentrated until precipitation was observed. The product was isolated by filtration, washed with MeOH (5 mL) and dried in vacuo to give 5-ethoxy-pyridine-2-carboxylic acid[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.89 g, 68% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.24 min (99.33%); mp: 185-187° C.; 1H 1H NMR (DMSO-d6) δ 1.37 (t, J=7.0 Hz, 3H, CH3), 1.95-2.16 (m, 1H, CHH), 2.40-2.70 (m, 2H, CHH, CHH), 2.78-3.01 (m, 1H, CHH), 4.19 (q, J=7.0 Hz, 2H, CH2), 4.63 (d, J=6.2 Hz, 2H, CH2), 5.14 (dd, J=5.4, 12.9 Hz, 1H, CH), 7.53 (dd, J=2.9, 8.8 Hz, 1H, Ar), 7.74-7.93 (m, 3H, Ar), 8.00 (d, J=8.7 Hz, 1H, Ar), 8.32 (d, J=2.5 Hz, 1H, Ar), 9.42 (t, J=6.4 Hz, 1H, NH), 11.11 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.40, 21.99, 30.93, 42.30, 48.99, 64.07, 121.27, 122.07, 123.39, 123.50, 129.74, 131.54, 133.54, 136.79, 142.16, 147.74, 156.99, 164.09, 167.00, 167.15, 169.80, 172.73; LCMS: MH=437; Anal Calcd for C22H20N4O6: C, 60.55; H, 4.62; N, 12.84. Found: C, 60.19; H, 4.53; N, 12.71.

reactant | 5-ethoxy-pyridine-2-carboxylic acid | 3.00 mmol, 0.50 g | C(C)OC=1C=CC(=NC1)C(=O)O | C8H9NO3
reactant | CDI | 3.30 mmol, 0.54 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 3.00 mmol, 1.15 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | MeOH | 200 mL | CO | CH4O
product | 5-ethoxy-pyridine-2-carboxylic acid[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.89 g, 68% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1=NC=C(C=C1)OCC)=O)=O | C22H20N4O6
